US04921997
2-(4-(3,5-dichlorobenzamido)phenoxy)-2-methylpropionic acid
To a solution of 0.5 g 2-(4-aminophenoxy)-2-methylpropionic acid in 5 ml 2N NaOH, 0.70 ml 3,5-dichlorobenzoyl chloride was dropwise added with stirring 5 ml additional 2N NaOH was gradually added to keep the PH strongly alkaline during the reaction. After 1 hour stirring, the reaction product was acidified with HCl. The white precipitate was recrystallized from aqueous isopropanol to give 1.4 g (76%) of fine crystals MP 206-207°.

reactant | 2-(4-aminophenoxy)-2-methylpropionic acid | 0.5 g | NC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H13NO3
reactant | HCl | Cl | ClH
reactant | 3,5-dichlorobenzoyl chloride | 0.70 ml | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | NaOH | 2N, 5 ml | [OH-].[Na+]
solvent | NaOH | 2N | [OH-].[Na+]
product | 2-(4-(3,5-dichlorobenzamido)phenoxy)-2-methylpropionic acid | 1.4 g, 76% | ClC=1C=C(C(=O)NC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=C(C1)Cl | C17H15Cl2NO4
